### PR TITLE
feat(MeasureTheory/Measure): bound Hausdorff measure under orthogonal projection

### PR DESCRIPTION
**Pull request by FrankieNC**
Formalisation that Hausdorff measure is non-increasing under orthogonal projection onto a finite-dimensional Euclidean subspace.

This includes:
* a bound on the norm of orthogonal projections;
* a proof that orthogonal projection is 1-Lipschitz;
* the main result: the s-dimensional Hausdorff measure of the projection of a set is less than or equal to that of the original set.

This formalises Lemma 3.5 from Julian Fox’s REU paper:  
*Besicovitch Sets, Kakeya Sets, and Their Properties*, UChicago REU, 2021.  
<https://math.uchicago.edu/~may/REU2021/REUPapers/Fox.pdf>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+  https://math.uchicago.edu/~may/REU2021/REUPapers/Fox.pdf
+-/
+
+open ENNReal MeasureTheory Submodule
+
+/--
+In a finite-dimensional Euclidean space, the norm of the orthogonal projection
+of a vector `v` onto a subspace `V` is less than or equal to the norm of `v`.
+-/
+lemma norm_orthogonalProjection_le (n : ℕ)
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean]: I suggest putting this lemma in the same file as the lemma `orthogonalProjection_norm_le` is currently in, and perhaps placed directly after that one.

Comment (b-mehta) [reply Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean]: Note also that the lemma should apply with any submodule in a real vector space, not just R^n

File: Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+        gcongr
+      _ = ‖v‖ := by
+        simp only [one_mul]
+  exact le_trans h₁ h₃
+
+/--
+The orthogonal projection onto a subspace `V` in a finite-dimensional Euclidean space
+is a `1`-Lipschitz function.
+-/
+lemma lipschitzWith_orthogonalProjection (n : ℕ)
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean]: I think this should also be in a different file: the idea is that if someone is looking for the fact that projection is 1-lipschitz, it doesn't quite make sense to find it in a measure theory file!

File: Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+
+variable (n k : ℕ) (W : Submodule ℝ (EuclideanSpace ℝ (Fin n))) (A : Set (EuclideanSpace ℝ (Fin n)))
+  (h : Module.finrank ℝ W = k)
+
+/--
+Let `A` be a subset of `ℝⁿ` and `W` a `k`-dimensional subspace. Then the `s`-dimensional
+Hausdorff measure of the orthogonal projection of `A` onto `W` is less than or equal to the
+`s`-dimensional Hausdorff measure of `A`.
+-/
+lemma hausdorffMeasure_orthogonalProjection_le (s: NNReal) (hs : 0 ≤ s.toReal):
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/HausdorffProjectionLe.lean]: And this one should probably go in the same file as all the other Hausdorff stuff. We discussed splitting that file up and making it a folder, but for now I think we should just add small(ish) lemmas like this there.

**Review by b-mehta — COMMENTED** [review]
Hi, thanks for the PR! I've left a few comments suggesting moving the lemmas to other places, in particular avoiding making a new file for this. After that's done, there are a few code improvements I think should be made, to make these proofs more concise, but before that it's worth thinking about the generality of these lemmas. Your first lemma uses `orthogonalProjection_norm_le`, so I'd guess it should be provable in exactly that generality: a real inner product space

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 4]
```diff
@@ -617,6 +618,32 @@ theorem orthogonalProjection_unit_singleton {v : E} (hv : ‖v‖ = 1) (w : E) :
...
+    LipschitzWith 1 (orthogonalProjection K) := by
+  apply LipschitzWith.mk_one
+  intro x y
+  rw [dist_eq_norm, dist_eq_norm]
+  calc
+    ‖orthogonalProjection K x - orthogonalProjection K y‖
+      = ‖orthogonalProjection K (x - y)‖ := by
+        simp only [AddSubgroupClass.coe_norm, AddSubgroupClass.coe_sub, map_sub]
+    _ ≤ ‖x - y‖ := by apply norm_orthogonalProjection_le
+
```
Comment (b-mehta) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]: Let's move this chunk so it's immediately after `orthogonalProjection_norm_le`, and before the `variable (𝕜)`.

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 5]
```diff
@@ -617,6 +618,32 @@ theorem orthogonalProjection_unit_singleton {v : E} (hv : ‖v‖ = 1) (w : E) :
...
+  have h₁ : ‖orthogonalProjection K v‖ ≤ ‖orthogonalProjection K‖ * ‖v‖ := by
+    exact ContinuousLinearMap.le_opNorm K.orthogonalProjection ↑v
+  have h₂ : ‖orthogonalProjection K‖ ≤ 1 := by
+    exact orthogonalProjection_norm_le K
+  have h₃ : ‖orthogonalProjection K‖ * ‖v‖ ≤ ‖v‖ := by
+    calc
+      ‖orthogonalProjection K‖ * ‖v‖ ≤ 1 * ‖v‖ := by
+        gcongr
+      _ = ‖v‖ := by simp only [AddSubgroupClass.coe_norm, one_mul]
+  exact Preorder.le_trans ‖K.orthogonalProjection ↑v‖ (‖K.orthogonalProjection‖ * ‖v‖) ‖v‖ h₁ h₃
```
Comment (b-mehta) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]:
```suggestion
    ‖orthogonalProjection K v‖ ≤ ‖v‖ := by calc
  ‖orthogonalProjection K v‖ ≤ ‖orthogonalProjection K‖ * ‖v‖ := K.orthogonalProjection.le_opNorm _
  _ ≤ 1 * ‖v‖ := by gcongr; exact orthogonalProjection_norm_le K
  _ = _ := by simp
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 6]
```diff
@@ -617,6 +618,32 @@ theorem orthogonalProjection_unit_singleton {v : E} (hv : ‖v‖ = 1) (w : E) :
...
+theorem lipschitzWith_orthogonalProjection :
+    LipschitzWith 1 (orthogonalProjection K) := by
+  apply LipschitzWith.mk_one
+  intro x y
+  rw [dist_eq_norm, dist_eq_norm]
+  calc
+    ‖orthogonalProjection K x - orthogonalProjection K y‖
+      = ‖orthogonalProjection K (x - y)‖ := by
+        simp only [AddSubgroupClass.coe_norm, AddSubgroupClass.coe_sub, map_sub]
+    _ ≤ ‖x - y‖ := by apply norm_orthogonalProjection_le
```
Comment (b-mehta) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]:
```suggestion
  apply LipschitzWith.mk_one
  intro x y
  calc
    _ = ‖orthogonalProjection K (x - y)‖ := by simp [dist_eq_norm]
    _ ≤ ‖x - y‖ := norm_orthogonalProjection_le _ _
    _ = dist x y := by simp [dist_eq_norm]
```

I'm tempted to say that we should also add the lemma that if a continuous linear map has ||f|| <= K, then it's K-Lipschitz, then this lemma will be just an application of that more general fact (which is currently missing). The other direction is already there as [ContinuousLinearMap.opNorm_le_of_lipschitz](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.html#ContinuousLinearMap.opNorm_le_of_lipschitz).

**Review by b-mehta — COMMENTED** [review]
I ended up making some of the changes myself, I hope you don't mind!

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 7]
```diff
@@ -1093,6 +1095,27 @@ theorem hausdorffMeasure_segment {E : Type*} [NormedAddCommGroup E] [NormedSpace
     [MeasurableSpace E] [BorelSpace E] (x y : E) : μH[1] (segment ℝ x y) = edist x y := by
   rw [← affineSegment_eq_segment, hausdorffMeasure_affineSegment]
 
+-- This duplicates an instance from Mathlib.MeasureTheory.Measure.Haar.Disintegration
+-- Instance with keys using `Submodule`
+instance {𝕜 : Type u_1} {E : Type u_2} [NontriviallyNormedField 𝕜] [NormedAddCommGroup E]
+    [NormedSpace 𝕜 E] [MeasurableSpace E] [BorelSpace E]
+    (T : Submodule 𝕜 E) : BorelSpace T :=
+  Subtype.borelSpace _
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean:1103]: @sgouezel I copied this from the disintegration file since it's also needed for the lhs below, but that doesn't seem like the right thing to do. Do you have any suggestions here?

**Review by b-mehta — COMMENTED** [review]
I'm unsure about the extra instance here, I'd like an analysis maintainer's opinion on what's the best course of action. Otherwise this looks good to me, so 

maintainer delegate

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 8]
```diff
@@ -3,12 +3,13 @@ Copyright (c) 2019 Zhouhang Zhou. All rights reserved.
...
 -/
-import Mathlib.Analysis.Convex.Basic
+
+import Mathlib.Algebra.DirectSum.Decomposition
 import Mathlib.Analysis.InnerProductSpace.Orthogonal
 import Mathlib.Analysis.InnerProductSpace.Symmetric
 import Mathlib.Analysis.NormedSpace.RCLike
 import Mathlib.Analysis.RCLike.Lemmas
-import Mathlib.Algebra.DirectSum.Decomposition
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean:13]: please place these in alphabetical order

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 9]
```diff
@@ -586,6 +587,19 @@ variable (K)
 theorem orthogonalProjection_norm_le : ‖K.orthogonalProjection‖ ≤ 1 :=
   LinearMap.mkContinuous_norm_le _ (by norm_num) _
 
+/-- The orthogonal projection onto a closed subspace is norm non-increasing. -/
+theorem norm_orthogonalProjection_le (v : E) :
+    ‖orthogonalProjection K v‖ ≤ ‖v‖ := by calc
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean:592]: The first of these should be called `norm_orthgonalProjection_le` and the one you're adding should be called `norm_orthogonalProjection_apply`. We should probably also have a version `norm_orthgonalProjection (hK : K ≠ ⊥) : ‖K.orthogonalProjection‖ = 1`.

File: Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean [hunk 10]
```diff
@@ -281,6 +280,16 @@ theorem opNorm_smul_le {𝕜' : Type*} [NormedField 𝕜'] [NormedSpace 𝕜' F]
     gcongr
     apply le_opNorm
 
+/-- A continuous linear map is `M`-Lipschitz if its operator norm is at most `M`. -/
+theorem lipschitzWith_of_opNorm_le {M : ℝ≥0} {φ : E →SL[σ₁₂] F}
+  (h : ‖φ‖ ≤ M) :
+    LipschitzWith M φ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean]: Can you just upgrade [ContinuousLinearMap.opNorm_le_of_lipschitz](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.html#ContinuousLinearMap.opNorm_le_of_lipschitz) to an `↔`, and then re-add that result and this one via the `alias` command? Also, the proof of this direction should just be something like (untested): `φ.lipschitz.weaken h`.

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 11]
```diff
@@ -1093,6 +1095,27 @@ theorem hausdorffMeasure_segment {E : Type*} [NormedAddCommGroup E] [NormedSpace
...
+/--
+Let `s` be a subset of `𝕜`-inner product space, and `K` a subspace. Then the `d`-dimensional
+Hausdorff measure of the orthogonal projection of `s` onto `K` is less than or equal to the
+`d`-dimensional Hausdorff measure of `s`.
+-/
+theorem hausdorffMeasure_orthogonalProjection_le {𝕜 : Type u_1} {E : Type u_2} [RCLike 𝕜]
+    [NormedAddCommGroup E] [InnerProductSpace 𝕜 E] [MeasurableSpace E] [BorelSpace E]
+    (K : Submodule 𝕜 E) [K.HasOrthogonalProjection]
+    (d : ℝ) (s : Set E) (hs : 0 ≤ d) :
+    μH[d] (K.orthogonalProjection '' s) ≤ μH[d] s := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: Can you add the resulting inequality on the Hausdorff dimension?

**Comment by FrankieNC** [comment]
Migrated PR to https://github.com/leanprover-community/mathlib4/pull/25759
